US05700819
To a solution of N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-phenylglycine methyl ester (420 mg, 1 mmol) in a mixture of water (3 ml) and dioxane (6 ml) was added dropwise 2N sodium hydroxide (1.2 ml) with stirring under ice cooling and the mixture was stirred for 1 hour at room temperature. The reaction mixture was then diluted with water and washed with ether. The aqueous layer was acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, then dried and evaporated to yield a residue, which was recrystallized from ethyl acetate-isopropyl ether to give N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-phenylglycine 210 mg, 52%) as a colorless powder.

reactant | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-phenylglycine methyl ester | 1 mmol, 420 mg | COC(CN(C1=CC=CC=C1)C(CCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C19H15F3N2O3S
reactant | sodium hydroxide | 2N, 1.2 ml | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-phenylglycine | 210 mg, 52% | FC1=C(C=C(C2=C1N=C(S2)CCC(=O)N(CC(=O)O)C2=CC=CC=C2)F)F | C18H13F3N2O3S
